US06358971B1
2-Amino-3-(2-fluoro-4-trifluoromethylphenyl)-6-(4-fluorobenzoyl)-imidazo[1,2-a]pyridine
The 2-trifluoroacetamido-3-(2-fluoro-4-trifluoromethylphenyl)-6-(4-fluorobenzoyl)-imidazo[1,2-a]pyridine (6.75 g, 13.2 mmol) was converted to product in a manner substantially analogous to Example 67 to yield 4.66 g. (85%). EA, MS(FD).

reactant | 2-trifluoroacetamido-3-(2-fluoro-4-trifluoromethylphenyl)-6-(4-fluorobenzoyl)-imidazo[1,2-a]pyridine | 13.2 mmol, 6.75 g | FC(C(=O)NC=1N=C2N(C=C(C=C2)C(C2=CC=C(C=C2)F)=O)C1C1=C(C=C(C=C1)C(F)(F)F)F)(F)F | C23H11F8N3O2
solvent | EA | CC(OCC)=O | C4H8O2
product | 2-Amino-3-(2-fluoro-4-trifluoromethylphenyl)-6-(4-fluorobenzoyl)-imidazo[1,2-a]pyridine | NC=1N=C2N(C=C(C=C2)C(C2=CC=C(C=C2)F)=O)C1C1=C(C=C(C=C1)C(F)(F)F)F | C21H12F5N3O
